US04499091
A mixture of 14.65 g (0.047 mole) of ethyl 7-chloro-6-fluoro-1-(formylamino)-1,4-dihydro-4-oxo-3-quinolinecarboxylate (Preparation 2), 12.9 g (0.094 mole) of potassium carbonate and 200 ml of dimethylformamide was stirred at 25° C. for 90 minutes. Methyl iodide (20.0 g, 0.141 mole) was then added and the reaction mixture was stirred at room temperature for 90 minutes. The dimethylformamide was removed in high vacuum at 50° C., and the residue was partitioned between 250 ml of water and 500 ml of chloroform. The chloroform layer was separated and dried over anhydrous magnesium sulfate. There was obtained from the chloroform solution upon concentration 13.8 g of ethyl 7-chloro-6-fluoro-1,4-dihydro-5-[(formyl)methylamino]-4-oxo-3-quinolinecarboxylate, m.p. 213°-216° C.

reactant | ethyl 7-chloro-6-fluoro-1-(formylamino)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.047 mole, 14.65 g | ClC1=C(C=C2C(C(=CN(C2=C1)NC=O)C(=O)OCC)=O)F | C13H10ClFN2O4
reactant | potassium carbonate | 0.094 mole, 12.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 0.141 mole, 20.0 g | CI | CH3I
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 7-chloro-6-fluoro-1,4-dihydro-5-[(formyl)methylamino]-4-oxo-3-quinolinecarboxylate | ClC1=C(C(=C2C(C(=CNC2=C1)C(=O)OCC)=O)NCC=O)F | C14H12ClFN2O4
